US04406828
If ethyl benzyl ketone is reacted with β-methallyl chloride according to the foregoing details, then there is obtained 2-methyl-4-phenyl-hept-1-en-5-one of boiling point 93° C./3 mmHg; nD20 =1.5094.

reactant | ethyl benzyl ketone | C(C1=CC=CC=C1)C(=O)CC | C10H12O
reactant | β-methallyl chloride | CC(=C)CCl | C4H7Cl
product | 2-methyl-4-phenyl-hept-1-en-5-one | CC(=C)CC(C(CC)=O)C1=CC=CC=C1 | C14H18O
